* Colpitts LC oscillator f=500000Hz L=1e-05H
* f = 1/(2*pi*sqrt(L*Cs)), Cs = C1*C2/(C1+C2)
VCC vcc 0 DC 12
R1 vcc base 10k
R2 base 0 2.7k
RC vcc coll 220
RE emit 0 470
Q1 coll base emit QNPN
L1 vcc coll 1e-05
C1 coll emit 2.026e-08
C2 emit 0 2.026e-08
.ic V(coll)=0.1
.model QNPN NPN(BF=150 IS=1e-15 VAF=100)
.tran 0 0.0002 0 5e-08
.end
