* D:\project\python\LTspiece\projects\highpass_1khz\circuit.asc
* Generated by LTspice 26.0.2 for Windows.
V1 N001 0 AC 1
C1 N001 N002 1.592e-08
R1 N002 0 10000
.ac dec 20 10 100000
.backanno
.end
