* D:\project\python\LTspiece\projects\lowpass_2khz\circuit.asc
* Generated by LTspice 26.0.2 for Windows.
V1 N001 0 AC 1
R1 N001 N002 1000
C1 N002 0 7.958e-08
.ac dec 20 20 200000
.backanno
.end
